US07714126B2
With a method similar to example 43 above, 2-(2-bromo-phenyl)-5-trifluoromethyl-oxazole-4-carboxylic acid [6-((S)-3-hydroxy-pyrrolidin-1-yl)-pyridin-3-yl]-amide was prepared from 2-(2-bromo-phenyl)-5-trifluoromethyl-oxazole-4-carboxylic acid and (S)-1-(5-Amino-pyridin-2-yl)-pyrrolidin-3-ol. LCMS calcd for C20H16BrF3N4O3 m/e 497, obsd 498.

reactant | 2-(2-bromo-phenyl)-5-trifluoromethyl-oxazole-4-carboxylic acid | BrC1=C(C=CC=C1)C=1OC(=C(N1)C(=O)O)C(F)(F)F | C11H5BrF3NO3
reactant | (S)-1-(5-Amino-pyridin-2-yl)-pyrrolidin-3-ol | NC=1C=CC(=NC1)N1C[C@H](CC1)O | C9H13N3O
product | 2-(2-bromo-phenyl)-5-trifluoromethyl-oxazole-4-carboxylic acid [6-((S)-3-hydroxy-pyrrolidin-1-yl)-pyridin-3-yl]-amide | O[C@@H]1CN(CC1)C1=CC=C(C=N1)NC(=O)C=1N=C(OC1C(F)(F)F)C1=C(C=CC=C1)Br | C20H16BrF3N4O3
